US08536168B2
1-(6-Chloropyridin-3-yl)cyclopropanol (Compound 15)
To a suspension of methyl 6-chloropyridine-3-carboxylate (1 g, 5.83 mmol) in 17 mL anhydrous ether was charged with 3 M ethyl magnesium bromide (8.5 mL, 26 mmol) in ether and stirred for 1 h before the addition of titanium isopropoxide (1.73 mL, 5.84 mmol) to the reaction mixture. The mixture was stirred for 16 h under nitrogen atmosphere. The mixture was quenched with saturated ammonium chloride aqueous solution and aqueous phase was adjusted to pH 3 with 1 N HCl. The mixture was partitioned between DCM and brine. The organic layer was dried over Na2SO4 and concentrated to afford the crude material. The resulting solid was purified by flash chromatography on silica gel, eluting with 10-80% EtOAc:heptane. Fractions containing the desired product were combined and concentrated to afford a brown greasy solid (180 mg, yield: 18.2%).

reactant | methyl 6-chloropyridine-3-carboxylate | 5.83 mmol, 1 g | ClC1=CC=C(C=N1)C(=O)OC | C7H6ClNO2
reactant | ethyl magnesium bromide | 26 mmol, 3 M, 8.5 mL | C(C)[Mg]Br
solvent | ether | 17 mL | CCOCC | C4H10O
catalyst | titanium isopropoxide | 5.84 mmol, 1.73 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 1-(6-Chloropyridin-3-yl)cyclopropanol | 180 mg, yield: 18.2% | ClC1=CC=C(C=N1)C1(CC1)O | C8H8ClNO
